### PR TITLE
[Merged by Bors] - feat: port Archive.Imo.Imo1998Q2

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
not much left:

- [ ] fix `clear_denominators`
- [ ] golf the fix for `A_fibre_over_judgePair`

File: Archive/Imo/Imo1998Q2.lean [hunk 1]
```diff
@@ -0,0 +1,265 @@
...
+  · intro h; aesop
+#align imo1998_q2.A_fibre_over_contestant Imo1998Q2.A_fibre_over_contestant
+
+theorem A_fibre_over_contestant_card (c : C) :
+    (Finset.univ.filter fun p : JudgePair J => p.Agree r c ∧ p.Distinct).card =
+      ((A r).filter fun a : AgreedTriple C J => a.contestant = c).card := by
+  rw [A_fibre_over_contestant r]
+  apply Finset.card_image_of_injOn
+  -- porting note: used to be `tidy`
+  unfold Set.InjOn; intros; ext; all_goals aesop
```
Comment (semorrison) [inline Archive/Imo/Imo1998Q2.lean:138]: Can you just add `extCore` as an extra tactic to `aesop`, like in the category theory library?

File: Archive/Imo/Imo1998Q2.lean [hunk 2]
```diff
@@ -0,0 +1,265 @@
...
+  -- porting note: this used to be `finish`
+  · simp only [Finset.mem_filter, Finset.mem_image, Prod.exists] at h
+    rcases h with ⟨_, ⟨_, ⟨_, ⟨h, _⟩⟩⟩⟩
+    cases h; aesop
+#align imo1998_q2.A_fibre_over_judge_pair Imo1998Q2.A_fibre_over_judgePair
+
+theorem A_fibre_over_judgePair_card {p : JudgePair J} (h : p.Distinct) :
+    (agreedContestants r p).card =
+      ((A r).filter fun a : AgreedTriple C J => a.judgePair = p).card := by
+  -- porting note: used to be `tidy`
```
Comment (semorrison) [inline Archive/Imo/Imo1998Q2.lean:155]:
```suggestion
```

File: Archive/Imo/Imo1998Q2.lean (hunk 1 above)
Comment (mo271) [reply Archive/Imo/Imo1998Q2.lean]: That sounds like a good idea!

So I tried adding
```
-- We turn on `ext` inside `aesop`.
attribute [aesop unsafe] Std.Tactic.Ext.extCore
```
but even doing this in right in this file, didn't have the desired effect that I can leave out `ext` in the proof.

What would be the right file to add `extCore` to aesop? In the file where `extCore` is defined doesn't seem to be a good place, because I can't seem to import `Aesop` from there.

Comment (semorrison) [reply Archive/Imo/Imo1998Q2.lean]: You need to do it like in `CategoryTheory.Basic`. i.e. call `extCore'` with the correct signature, otherwise it treats it as an apply lemma, I think, rather than a tactic.

Comment (semorrison) [reply Archive/Imo/Imo1998Q2.lean]: I know it's a bit annoying setting up automation, but in the long run it's a good idea. :-)

Comment (semorrison) [reply Archive/Imo/Imo1998Q2.lean]: In particular, it might make sense to move `extCore'` to somewhere that can be imported by both this file and CategoryTheory.Basic.

Possibly even as high at `Ext` in Std4 itself!

Comment (mo271) [reply Archive/Imo/Imo1998Q2.lean]: ok, I opened two draft pull requests:
https://github.com/leanprover/std4/pull/161
and 
https://github.com/leanprover-community/mathlib4/pull/5329

Applying both it seems that mathlib4 is able to build. However, I'm still not quite sure how to make it work in the Imo1998Q2 file.

Comment (digama0) [reply Archive/Imo/Imo1998Q2.lean]: I think it would be best to move this not into std but rather somewhere where you can apply the aesop attribute in the same file.

Comment (mo271) [reply Archive/Imo/Imo1998Q2.lean]: What file would be a good place then?

Comment (mo271) [reply Archive/Imo/Imo1998Q2.lean]: This is not fixed in the sense that it still doesn't work. However, there is a porting note explaining what to do, so from my point of view this can be done in a separate pull request. (As soon as I know where to put it and get it working...)

File: Archive/Imo/Imo1998Q2.lean [hunk 3]
```diff
@@ -192,55 +202,63 @@ theorem judge_pairs_card_lower_bound {z : ℕ} (hJ : Fintype.card J = 2 * z + 1)
...
+#align imo1998_q2.A_card_lower_bound Imo1998Q2.A_card_lower_bound
 
 end
 
 theorem clear_denominators {a b k : ℕ} (ha : 0 < a) (hb : 0 < b) :
-    (b - 1 : ℚ) / (2 * b) ≤ k / a ↔ (b - 1) * a ≤ k * (2 * b) := by
-  rw [div_le_div_iff] <;> norm_cast <;> simp [ha, hb]
+    (b - 1 : ℚ) / (2 * b) ≤ k / a ↔ ((b : ℕ) - 1) * a ≤ k * (2 * b) := by
+  rw [div_le_div_iff]
+  -- porting note: norm_cast alone was able to to that before
```
Comment (jcommelin) [inline Archive/Imo/Imo1998Q2.lean:234]:
```suggestion
  -- porting note: proof used to finish with `<;> norm_cast <;> simp [ha, hb]`
```

File: Archive/Imo/Imo1998Q2.lean (hunk 1 above)
Comment (jcommelin) [reply Archive/Imo/Imo1998Q2.lean]: Yeah, let's merge this (but see my other suggestion) and clean up when the issue is resolved.

bors d+
